US08383652B2
136 μL (1.0 mmol) of pentyl isocyanate are added to 213 mg (0.7 mmol) of ethyl 2-[1-(3′-methylaminobiphenyl-4-yl)meth-(E)-ylidene]butyrate. The reaction mixture is heated at 100° C. in an Emrys Optimizer microwave oven for 20 minutes. The residue is purified by chromatography on a column of silica eluted with a 70/30 heptane/ethyl acetate mixture. 291 mg (100%) of ethyl 2-[1-[3′-(3-pentyl-1-methylureido)biphenyl-4-yl]meth-(E)-ylidene]butyrate are obtained in the form of a yellowish oil.

reactant | pentyl isocyanate | 1.0 mmol, 136 μL | C(CCCC)N=C=O | C6H11NO
reactant | ethyl 2-[1-(3′-methylaminobiphenyl-4-yl)meth-(E)-ylidene]butyrate | 0.7 mmol, 213 mg | CNC=1C=C(C=CC1)C1=CC=C(C=C1)\C=C(\C(=O)OCC)/CC | C20H23NO2
product | ethyl 2-[1-[3′-(3-pentyl-1-methylureido)biphenyl-4-yl]meth-(E)-ylidene]butyrate | 291 mg, 100% | C(CCCC)NC(N(C)C=1C=C(C=CC1)C1=CC=C(C=C1)\C=C(\C(=O)OCC)/CC)=O | C26H34N2O3
